US08309562B2
(2-Chloromethyl-quinazolin-4-yl)-(3,5-dichloro-4-methoxy-phenyl)-methyl-amine
(2-Chloromethyl-quinazolin-4-yl)-(3,5-dichloro-4-methoxy-phenyl)-methyl-amine hydrochloride: A mixture of 4-chloro-2-chloromethyl-quinazoline (320 mg, 1.50 mmol) and (3,5-dichloro-4-methoxy-phenyl)-methyl-amine hydrochloride (401 mg, 1.65 mmol) in i-PrOH was stirred at rt for 2.8 h then collected by filtration and washed with i-PrOH, yielding the title compound as a light tan solid (529 mg; 84%). 1H NMR (CDCl3) δ 8.59 (m, 1H), 7.87 (m, 1H), 7.37 (m, 1H), 7.33 (s, 2H), 6.94 (m, 1H), 5.11 (s, 2H), 4.02 (s, 3H), 3.85 (s, 3H), LC-MS (ESI+; 382 ([M+H]+)).

reactant | (2-Chloromethyl-quinazolin-4-yl)-(3,5-dichloro-4-methoxy-phenyl)-methyl-amine hydrochloride | Cl.ClCC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC(=C(C(=C1)Cl)OC)Cl
reactant | 4-chloro-2-chloromethyl-quinazoline | 1.50 mmol, 320 mg | ClC1=NC(=NC2=CC=CC=C12)CCl | C9H6Cl2N2
reactant | (3,5-dichloro-4-methoxy-phenyl)-methyl-amine hydrochloride | 1.65 mmol, 401 mg | Cl.ClC=1C=C(C=C(C1OC)Cl)NC
solvent | i-PrOH | CC(C)O | C3H8O
product | (2-Chloromethyl-quinazolin-4-yl)-(3,5-dichloro-4-methoxy-phenyl)-methyl-amine | 529 mg, 84% | ClCC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC(=C(C(=C1)Cl)OC)Cl | C17H14Cl3N3O
